US07338959B2
N2-Cyclohexyl-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine
The title compound was prepared following the procedure of example 1 with N5-(2-Chloro-pyrimidin-4-yl)-N2-cyclohexyl-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine (92 mg, 0.25 mmol) and 4-[(methylsulfonyl)methyl]aniline (46 mg, 0.25 mmol) as a white solid (31 mg, 24%). 1H NMR (300 MHz, D6-DMSO) δ 9.20 (s, 1H), 7.77-7.80 (M, 3H), 7.10 (s, 1H), 6.82 (d, J=7.8 Hz, 1H), 6.50 (d, J=7.5 Hz, 1H), 5.64 (d, J=6.0 Hz, 1H), 4.34 (s, 2H), 3.70 (br s, 1H), 3.51 (s, 3H), 3.44 (s, 3H), 2.85 (s, 3H), 2.01 (br s, 2H), 1.74 (br s, 2H), 1.62 (d, J=11.1 Hz, 1H), 1.16-1.32 (m, 5H) ppm. MS (ESI) m/z=520 [M+H]+.

reactant | N5-(2-Chloro-pyrimidin-4-yl)-N2-cyclohexyl-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | 0.25 mmol, 92 mg | ClC1=NC=CC(=N1)N(C1=CC2=C(N(C(=N2)NC2CCCCC2)C)C=C1)C | C19H23ClN6
reactant | 4-[(methylsulfonyl)methyl]aniline | 0.25 mmol, 46 mg | CS(=O)(=O)CC1=CC=C(N)C=C1 | C8H11NO2S
product | N2-Cyclohexyl-N5-[2-(4-methanesulfonylmethyl-phenylamino)-pyrimidin-4-yl]-1,N5-dimethyl-1H-benzoimidazole-2,5-diamine | C1(CCCCC1)NC1=NC2=C(N1C)C=CC(=C2)N(C)C2=NC(=NC=C2)NC2=CC=C(C=C2)CS(=O)(=O)C | C27H33N7O2S
